US05843901
Synthesis of Boc-D-Pal(iPr)
Boc-D-Pal (4.0 g, 17.7 mmol) and Ag2O (8.0 g, 34.4 mmol) in 22 ml water was stirred at room temperature for 4 hours. The reaction vessel was cooled to 0° C., and 2-iodopropane (20.4 g, 120 mmol) in 40 ml 2-propanol was added. After addition was complete, the mixture was allowed to warm to room temperature and stirred for 4 days. Additional Ag2O (2 g) and 2-iodopropane (2 g) were added after 24 hours and again after 48 hours. The mixture was filtered, and the precipitate was washed with ethanol (2×15 ml). The filtrate was evaporated to yield 4.3 g of a yellow oil. Crystallization from ethanol/ethyl acetate gave light yellow crystals (3.0 g); Yield: 63%; m.p. 182°-185° C.

reactant | Boc-D-Pal | 17.7 mmol, 4.0 g | N([C@H](CC1=CC=CN=C1)C(=O)O)C(=O)OC(C)(C)C | C13H18N2O4
reactant | 2-iodopropane | 120 mmol, 20.4 g | IC(C)C | C3H7I
reactant | 2-iodopropane | 2 g | IC(C)C | C3H7I
solvent | water | 22 ml | O | H2O
solvent | 2-propanol | 40 ml | CC(C)O | C3H8O
product | Boc-D-Pal(iPr) | 4.3 g | N([C@H](CC=1C=CCN(C1)C(C)C)C(=O)O)C(=O)OC(C)(C)C | C16H26N2O4
